US08455488B2
Synthesis of 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methyl-4-(naphthalen-1-ylmethyl)semicarbazide (Compound II-40)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-8) 120 mg (0.42 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide (Compound IV-11) 100 mg (0.28 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.42 mmol, 120 mg | CN(NC(NCC1=CC=CC2=CC=CC=C12)=O)CC(=O)O | C15H17N3O3
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide | 0.28 mmol, 100 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)C | C20H29N3O3
product | 1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methyl-4-(naphthalen-1-ylmethyl)semicarbazide | C(C)OC([C@H](C)N(C([C@H](C)NC(CN(NC(=O)NCC1=CC=CC2=CC=CC=C12)C)=O)=O)CC=1C=CC=C2C=CC=NC12)OCC | C35H44N6O5
